* AD845B SPICE Macro-model                12/90, Rev. A   
*                                          AAG / PMI
*
* This version of the AD-845 model simulates the worst case 
* parameters of the 'B' grade.  The worst case parameters
* used correspond to those in the data sheet.
*
* Copyright 1990 by Analog Devices, Inc.
*
* Refer to "README.DOC" file for License Statement.  Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* Node assignments
*               non-inverting input
*               |   inverting input
*               |   |   positive supply
*               |   |   |   negative supply
*               |   |   |   |   output
*               |   |   |   |   |
.SUBCKT AD845B  1   2   100 101 36
*
* INPUT STAGE & POLE AT 170 MHz
*
R1  1  3  5E10
R2  2  3  5E10
R3  100  5  771.16
R4  100  6  771.16
CIN  1  2  4E-12
C2  5  6  607.01E-15
I1  4  101  1E-3
IOS  1  2  DC  50E-12
EOS  7  1  POLY(1)  13  14  250E-6  1
J1  5  2  4  JX
J2  6  7  4  JX
*
* GAIN STAGE & DOMINANT POLE AT 155.2 Hz
*
EREF  8  0  14  0  1
G1  8  9  5  6  1.2967E-3
R5  9  8  96.395E6
C3  9  8  10.638E-12
V1  100  10  DC  2.8125
D1  9  10  DX
V2  11  101  DC  2.8125
D2  11  9  DX
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 63.096 KHz
*
ECM  12  8  3  14  19.953
RCM1  12  13  1E6
RCM2  13  8  1
CCM  12  13  2.522E-12
*
*  VIRTUAL NODE
*
RVN1  100  14  17.33E3
RVN2  14  101  17.33E3
*
* POLE STAGE AT 170 MHz
*
GP1  8  15  9  14  1E-6
RP1  15  8  1E6
CP1  15  8  0.93621E-15
*
* NEGATIVE ZERO STAGE AT 46 MHz
*
EZ1  16  8  15  14  1E6
RZ1  16  17  1
RZ2  17  8  1E-6
CZ1  16  17  -3.4599E-9
*
* POLE STAGE AT 170 MHz
*
GP2  8  18  17  14  1E-6
RP2  18  8  1E6
CP2  18  8  0.93621E-15
*
* OUTPUT STAGE
*
IDC  100  101  DC  10.135E-3
VX  18  30  0
V3  32  35  DC  0.15
D3  30  32  DX
V4  35  33  DC  0.15
D4  33  30  DX
D5  100  31  DX
GO1  31  101  30  35  33.33E-3
D6  101  31  DY
D7  100  34  DX
GO2  34  101  35  30  33.33E-3
D8  101  34  DY
RO1  100  35  30
GO3  35  100  100  30  33.33E-3
RO2  35  101  30
GO4  101  35  30  101  33.33E-3
LO  35  36  45E-9
*
* MODELS USED
*
.MODEL JX NJF(VTO=-2 BETA=840.77E-6 IS=5E-10)
.MODEL DX D(IS=1E-15)
.MODEL DY D(IS=1E-15 BV=50)
.ENDS
